US07816391B2
Intermediate #18: 2-cyano-N-cyclohexyl-acetamide
Cyanoacetic acid (4.26 g, 50 mmol) and cyclohexylamine (4.96 g, 50 mmol) were dissolved in DCM (100 mL). EDCI (10.51 g, 55 mmol) was added and the mixture stiffed at ambient temperature for 24 h. The reaction mixture was washed with water (2×100 mL), dried (MgSO4) and evaporated to leave a yellow solid residue which was purified by chromatography on silica gel eluting with an EtOAc/DCM gradient (0-100%) to provide the title compound as a white solid (5.66 g, 68%).

reactant | Cyanoacetic acid | 50 mmol, 4.26 g | C(#N)CC(=O)O | C3H3NO2
reactant | cyclohexylamine | 50 mmol, 4.96 g | C1(CCCCC1)N | C6H13N
reactant | EDCI | 55 mmol, 10.51 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-cyano-N-cyclohexyl-acetamide | 5.66 g, 68% | C(#N)CC(=O)NC1CCCCC1 | C9H14N2O
